US07417142B2
2-(10,20-Diphenyl-porphyrin-5-ylamino)-3-phenyl-propionic acid methyl ester
The general procedure was used to couple 5-bromo-10,20-diphenylporphin (27.1 mg, 0.05 mmol) with (L)-phenylalanine methyl ester hydrochloride (43 mg, 0.2 mmol), using Pd (OAc)2 (1.12 mg, 0.005 mmol) and DPEphos (5.38 mg, 0.01 mmol) in the presence of Cs2CO3 (65.2 mg, 0.2 mmol). The reaction was conducted in THF at 100° C. for 24 h. The title compound was isolated by flash chromatography (silica gel, methylene chloride: hexanes (v/v)=8:2) as a purple-red solid (12 mg, 36%). 1H NMR (300 MHz, CDCl3) δ 9.79 (s, 1H), 9.14 (d, J=4.8 Hz, 1H), 9.09 (d, J=4.8 Hz, 1H), 8.84 (d, J=4.8 Hz, 1H), 9.28 (d, J=4.8 Hz, 1H), 9.01-9.06 (m, 3H), 8.98 (d, J=4.8 Hz, 1H), 8.67 (d, J=4.8 Hz, 2H), 8.18 (m,4H), 7.77 (m, 6H), 7.49 (dd, J=1.5, 8.4 Hz, 2H), 7.34-7.43 (m, 3H), 6.60 (d, bro., 1H), 5.52 (d, bro, 1H), 3.63 (t, J=6.9 Hz, 1H), 3.32 (s, 3H), 2.16 (s, 2H), −2.32 (s, 2H); 13C NMR (CDCl3, 75 MHz) δ 174.2, 141.7, 136.8, 134.5, 131.8, 130.8, 129.8, 128.8, 128.5, 127.6, 127.2, 126.8, 126.1, 119.4, 102.2, 72.1, 51.7, 40.8. UV-vis (CH2Cl2, λmax, nm): 420, 521, 562, 660. HRMS-MALDI ([M+H]+): calcd for C42H34N5O2, 640.2707; found: 640.2714.

reactant | 5-bromo-10,20-diphenylporphin | 0.05 mmol, 27.1 mg | BrC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2 | C32H21BrN4
reactant | (L)-phenylalanine methyl ester hydrochloride | 0.2 mmol, 43 mg | Cl.COC([C@@H](N)CC1=CC=CC=C1)=O
reactant | DPEphos | 0.01 mmol, 5.38 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3OC4=CC=CC=C4P(C5=CC=CC=C5)C6=CC=CC=C6 | C36H28OP2
reactant | Cs2CO3 | 0.2 mmol, 65.2 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-(10,20-Diphenyl-porphyrin-5-ylamino)-3-phenyl-propionic acid methyl ester | COC(C(CC1=CC=CC=C1)NC=1C2=CC=C(N2)C(=C2C=CC(C=C3C=CC(=C(C=4C=CC1N4)C4=CC=CC=C4)N3)=N2)C2=CC=CC=C2)=O | C42H33N5O2
